US07956054B2
(R)-3-[(5-Propyl-1-{6-[2-(1H-tetrazol-5-yl)-phenyl]-pyridin-3-ylmethyl}-1H-pyrazole-3-carbonyl)-amino]-4-(2-trifluoromethylphenyl)butyric Acid
A solution of 5-propyl-1-{6-[2-(1H-tetrazol-5-yl)-phenyl]pyridin-3-ylmethyl}-1H-pyrazole-3-carboxylic acid (20 mg, 0.05 mmol), HATU (19.5 mg, 0.0514 mmol) and DIPEA (44.7 uL, 0.257 mmol) in DMF (1.59 mL, 20.5 mmol) was stirred to pre-activate the acid. After 30 minutes, (R)-3-amino-4-(2-trifluoromethylphenyl)butanoic acid.HCl (14.6 mg, 51.4 μmol)) was added. The resulting solution was stirred overnight. The mixture was concentrated, re-dissolved in water/MeCN/TFA and purified using reverse phase liquid chromatography to yield the title compound (21.1 mg; 100% purity) as a TFA salt. MS m/z: [M+H]+ calcd for C31H29F3N8O3, 619.23; found 619.6.

reactant | 5-propyl-1-{6-[2-(1H-tetrazol-5-yl)-phenyl]pyridin-3-ylmethyl}-1H-pyrazole-3-carboxylic acid | 0.05 mmol, 20 mg | C(CC)C1=CC(=NN1CC=1C=NC(=CC1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)O | C20H19N7O2
reactant | HATU | 0.0514 mmol, 19.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.257 mmol, 44.7 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 20.5 mmol, 1.59 mL | CN(C)C=O | C3H7NO
reactant | (R)-3-amino-4-(2-trifluoromethylphenyl)butanoic acid | N[C@@H](CC(=O)O)CC1=C(C=CC=C1)C(F)(F)F | C11H12F3NO2
reactant | HCl | 51.4 μmol, 14.6 mg | Cl | ClH
product | (R)-3-[(5-Propyl-1-{6-[2-(1H-tetrazol-5-yl)-phenyl]-pyridin-3-ylmethyl}-1H-pyrazole-3-carbonyl)-amino]-4-(2-trifluoromethylphenyl)butyric Acid | 21.1 mg, 100% | C(CC)C1=CC(=NN1CC=1C=NC(=CC1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)N[C@@H](CC(=O)O)CC1=C(C=CC=C1)C(F)(F)F | C31H29F3N8O3
